US04873251
2-(4-Chlorophenyl)-N-[2-(1-methyl-1H-pyrrol-2-yl)ethyl]-3H-imidazo[4,5-b]pyridine-3-acetamide
A suspension of 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine]pyridine-3-acetic acid (5.0 g, 0.0174 mole), 1,1'-carbonyldiimidazole (2.82 g, 0.0174 mole) and dry tetrahydrofuran (100 ml) was stirred at room temperature for 3 hr with a stream of nitrogen bubbling through it. A solution of 2-(2-aminoethyl)-1-methylpyrrole (5.40 g, 0.0435 mole) in tetrahydrofuran (6 ml) was added and the mixture was stirred at room temperature under nitrogen overnight. The solvent was evaporated under reduced pressure and the resulting oil was triturated in water (100 ml) which caused a solid to form. The solid was collected by filtration, rinsed twice with water, twice with 5% potassium hydroxide solution and twice again with water. The solid was dissolved in hot isopropyl alcohol and filtered hot. Water was added to the cloud point. Upon cooling, a solid precipitated which was collected by filtration, rinsed with water, and dried under high vacuum at 50° C. overnight to give 4.31 g (63%) of title compound, mp 171°-172.5° C.

reactant | 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1 | C12H8ClN3
reactant | pyridine-3-acetic acid | 0.0174 mole, 5.0 g | N1=CC(=CC=C1)CC(=O)O | C7H7NO2
reactant | 1,1'-carbonyldiimidazole | 0.0174 mole, 2.82 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-(2-aminoethyl)-1-methylpyrrole | 0.0435 mole, 5.40 g | NCCC=1N(C=CC1)C | C7H12N2
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-(4-Chlorophenyl)-N-[2-(1-methyl-1H-pyrrol-2-yl)ethyl]-3H-imidazo[4,5-b]pyridine-3-acetamide | 4.31 g, 63% | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)NCCC=1N(C=CC1)C | C21H20ClN5O
